US09102688B2
5-Chloro-8-nitroquinoline (Intermediate 25)
In a similar fashion using route 7 general procedure 15, 5-chloroquinoline (1.0 g, 6.13 mmol), potassium nitrate (0.8 g, 7.98 mmol) and H2SO4 (3 ml) gave the title compound (630 mg, 51%) after trituration from DCM/n-pentane.

reactant | 5-chloroquinoline | 6.13 mmol, 1.0 g | ClC1=C2C=CC=NC2=CC=C1 | C9H6ClN
reactant | potassium nitrate | 7.98 mmol, 0.8 g | [N+](=O)([O-])[O-].[K+]
reactant | H2SO4 | 3 ml | OS(=O)(=O)O | H2O4S
solvent | DCM n-pentane | C(Cl)Cl.CCCCC
product | 5-Chloro-8-nitroquinoline | 630 mg, 51% | ClC1=C2C=CC=NC2=C(C=C1)[N+](=O)[O-] | C9H5ClN2O2
